US05207947
(1) Synthesis of 1,1,1-trifluoro-2-octyl 6-hydroxynaphthalene-2-carboxylate
To a solution of 2-hydroxy-6-carboxynaphthalene (1 g) and optically active 1,1,1-trifluoro-2-octanol (1.1 g) in methylene chloride (50 ml) was added a few drops of conc. sulfuric acid and the mixture was refluxed under stirring for about two days.

reactant | 2-hydroxy-6-carboxynaphthalene | 1 g | OC1=CC2=CC=C(C=C2C=C1)C(=O)O | C11H8O3
reactant | 1,1,1-trifluoro-2-octanol | 1.1 g | FC(C(CCCCCC)O)(F)F | C8H15F3O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
product | 1,1,1-trifluoro-2-octyl 6-hydroxynaphthalene-2-carboxylate | OC=1C=C2C=CC(=CC2=CC1)C(=O)OC(C(F)(F)F)CCCCCC | C19H21F3O3
